US07202364B2
A mixture of N-(6-acetyloxy-1-chloro-2-naphthyl)carbamic acid ethyl ester (375 mg, 1.34 mmol) and KOH (903 mg, 16.1 mmol) in ethanol (10 mL) is heated to reflux temperature under N2 atmosphere for 4.5 hours. The reaction mixture is concentrated by rotary evaporator under high vacuum. The residual oil is partitioned between EtOAc and water. After acidification (2 N HCl), the organic layer is separated, washed with brine and dried (MgSO4). Concentration by rotary evaporator gives 1-chloro-2-amino-6-naphthol as a brown solid.

reactant | N-(6-acetyloxy-1-chloro-2-naphthyl)carbamic acid ethyl ester | 1.34 mmol, 375 mg | C(C)OC(NC1=C(C2=CC=C(C=C2C=C1)OC(C)=O)Cl)=O | C15H14ClNO4
reactant | KOH | 16.1 mmol, 903 mg | [OH-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-chloro-2-amino-6-naphthol | ClC1=C(C=CC2=CC(=CC=C12)O)N | C10H8ClNO
